US07314936B2
To a solution of diethyl 4-chloro-5-nitro-2,6-pyridinedicarbamate (intermediate for the preparation of 1) (500 mg) in EtOH (50 mL) was added Raney Ni (1 g) and stirred for 12 h under hydrogen atmosphere at room temperature. Reaction mixture was filtered on celite and filtrate was concentrated under reduced pressure. Residue was dissolved in 2-propanol (10 mL) and stirred for 60 h under reflux. The reaction mixture was cooled to room temperature and precipitate was filtered. The filtrate was concentrated to give 250 mg of (7-chloro-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-5-yl)-carbamic acid ethyl ester as a gray solid. 1H NMR confirmed the structure.

reactant | diethyl 4-chloro-5-nitro-2,6-pyridinedicarbamate | ClC1=CC(=NC(=C1[N+](=O)[O-])NC(=O)OCC)NC(=O)OCC | C11H13ClN4O6
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Ni | 1 g | [Ni] | Ni
product | (7-chloro-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-5-yl)-carbamic acid ethyl ester | 250 mg | C(C)OC(NC1=CC(=C2C(=N1)NC(N2)=O)Cl)=O | C9H9ClN4O3
